US05643908
4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxoheptyl)-2-oxazolidinone
A solution of 4-(S)-isopropyl-3-(1-oxoheptyl)-2-oxazolidinone (519 mg) in tetrahydrofuran (15 ml) was cooled to -15° C., a 0.58M solution (39 ml) of lithium diisopropylamide in tetrahydrofuran was added thereto under an atmosphere of nitrogen, and the resulting mixture was stirred at -78° C for 10 minutes. A solution of tert-butyl bromoacetate (1.7 ml) in tetrahydrofuran (5 ml) was then added thereto and the temperature was allowed to rise gradually to -55° C. over a period of 5.5 hours with stirring. The reaction mixture was poured into a 5% aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic extract was successively washed with water and a saturated aqueous solution of sodium chloride, and dried over sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by column chromatography through silica gel using a 10:1 mixture of hexane and ethyl acetate as an eluent, to give 697 mg (91.2%) of the desired compound. Recrystallization from aqueous methanol gave rise to crystals having a m.p. of 51°-53° C.

reactant | 4-(S)-isopropyl-3-(1-oxoheptyl)-2-oxazolidinone | 519 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCC)=O | C13H23NO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tert-butyl bromoacetate | 1.7 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxoheptyl)-2-oxazolidinone | 697 mg, 91.2% | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@H](CCCCC)CC(=O)OC(C)(C)C)=O | C19H33NO5
